US06528525B1
(b) 4′-Dimethoxymethylbiphenyl-4-carboxylic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 4′-dimethoxymethylbiphenyl-4-carboxylate (1.89 g), which is the product of Reference example 11(a), and aqueous sodium hydroxide (1N, 9.90 ml) and the reaction mixture was treated to afford the desired compound (1.80 g) as colorless crystals.

reactant | methyl 4′-dimethoxymethylbiphenyl-4-carboxylate | 1.89 g | COC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC)OC | C17H18O4
reactant | sodium hydroxide | 1N, 9.90 ml | [OH-].[Na+]
product | 4′-Dimethoxymethylbiphenyl-4-carboxylic acid | 1.80 g | COC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)OC | C16H16O4
